US05109017
To a stirred solution of 10 g (0.047 mol) of α-(3-methyl-2-thienyl)benzeneethanamine in 50 ml of pyridine at ambient temperature was added dropwise 6.6 ml (0.07 mol) of acetic anhydride. Mixture was allowed to stand overnight, diluted with 500 ml of ETOAC, washed with 1N HCl until acidic, water, brine and dried. The resulting dark oil obtained from concentration of the organics was purified by chromatography on silica gel to give 8.2 g ( 0.032 mol) of N-acetoxy-α-(3-methyl-2-thienyl)benzeneethanamine as a light brown solid. To a stirred suspension of this solid in 45 ml of THF at 0° C. was added dropwise 64 ml (0.064 mol) of a 1.M solution of borane in THF. The resulting mixture was allowed to warm to ambient temperature and stirred overnight. The reaction was quenched by carefully adding 100 ml of 6N HCl and was then warmed at 75° C. for 40 hours. The mixture was cooled, made basic with 50% aqueous NaOH, and extracted with CH2Cl2 (3×200 ml). The organic extracts were combined, washed with water, brine, and dried. The resulting oil obtained from concentration of organics was dissolved in 50 ml isopropanol and made acidic with hydrochlorinated isopropanol. The white solid was collected by filtration and dried giving 5. g of product as a white solid (mp 226°-228° C.).

reactant | α-(3-methyl-2-thienyl)benzeneethanamine | 0.047 mol, 10 g | CC1=C(SC=C1)C(CC1=CC=CC=C1)N | C13H15NS
reactant | acetic anhydride | 0.07 mol, 6.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-acetoxy-α-(3-methyl-2-thienyl)benzeneethanamine | 0.032 mol, 8.2 g | C(C)(=O)ONC(CC1=CC=CC=C1)C=1SC=CC1C | C15H17NO2S
